US04080449
To a mixture of 6 g. (0.034 moles) of 5-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one and 4 drops of Triton B (benzyltrimethylammonium hydroxide) in 10 ml. of pyridine, are added dropwise 2 g. (0.038 moles) of acrylonitrile dissolved in 2.5 ml. of pyridine. The reaction mixture is heated to 80° C. for 2 hours and then poured into iced water. It is acidified with hydrochloric acid to pH 4 and extracted with chloroform. The organic phase is washed neutral with water and then dried over anhydrous sodium sulfate. It is filtered and the solvent is evaporated off in vacuo. 8 g. (almost theoretical yield) of syrupy 2-(2-cyanoethyl)-5-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one are obtained.

reactant | 5-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 0.034 moles | CC1CC(NCC2=C1C=CC=C2)=O | C11H13NO
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | acrylonitrile | 0.038 moles | C(C=C)#N | C3H3N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(2-cyanoethyl)-5-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | C(#N)CCN1CC2=C(C(CC1=O)C)C=CC=C2 | C14H16N2O
